US05886014
5-(4-Methoxycarbonylmethoxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione
126 g of cesium carbonate were added at room temperature to a solution of 120 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione in 2.5 liters of acetone, followed by 36 ml of methyl bromoacetate, and the resulting mixture was stirred for 1 hour. At the end of this time, the reaction mixture was freed from the solvent by distillation under reduced pressure, and the resulting residue was mixed with water. The aqueous mixture was then extracted with ethyl acetate. The extract was washed with water and then with a saturated aqueous solution of sodium chloride, after which it was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, after which 1 liter of diethyl ether was added to the oily residue. The mixture was then agitated ultrasonically for 10 minutes. The solid substance precipitated was collected by filtration, to give 126.3 g of the title compound, melting at 158°-162° C.

reactant | cesium carbonate | 126 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 120 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | methyl bromoacetate | 36 ml | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 2.5 liters | CC(=O)C | C3H6O
product | 5-(4-Methoxycarbonylmethoxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 126.3 g | COC(=O)COC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C32H27NO5S
